US07405230B2
N-(3,4-Bis-difluoromethoxyphenyl)-N-(3-pyridylmethyl)-4-aminobenzoic Acid
A solution consisting of 1.75 g (3.44 mmol) of tert-butyl N-(3,4-bis-difluoromethoxyphenyl)-N-(3-pyridylmethyl)-4-aminobenzoate, 33.5 mL of dichloromethane and 8.4 mL of trifluoroacetic acid was stirred at room temperature for 5 hours. The solution was washed with 50 mL of H2O. Then 50 mL of H2O was added and the pH adjusted to 6 by the addition of 10% aqueous NaOH. The combined aqueous layers were extracted with 2×50 mL of dichloromethane. The combined dichloromethane extracts were evaporated and the remaining material was purified by flash chromatography over SiO2 using 10% MeOH in CH2Cl2 as eluant. The material was triturated with CH3CN to yield 1.09 g (73% yield) of the title compound as a white crystalline powder. [MW 436.359; ESMS m/z (M+H)+].

reactant | tert-butyl N-(3,4-bis-difluoromethoxyphenyl)-N-(3-pyridylmethyl)-4-aminobenzoate | 3.44 mmol, 1.75 g | FC(OC=1C=C(C=CC1OC(F)F)N(C1=CC=C(C(=O)OC(C)(C)C)C=C1)CC=1C=NC=CC1)F | C25H24F4N2O4
reactant | trifluoroacetic acid | 8.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 33.5 mL | ClCCl | CH2Cl2
product | N-(3,4-Bis-difluoromethoxyphenyl)-N-(3-pyridylmethyl)-4-aminobenzoic Acid | 1.09 g, 73% yield | FC(OC=1C=C(C=CC1OC(F)F)N(C1=CC=C(C(=O)O)C=C1)CC=1C=NC=CC1)F | C21H16F4N2O4
